US04829084
A 57% oil dispersion of sodium hydride (11.8 g, 0.28 mole NaH) was added to 150 ml of tetrahydrofuran. The suspension was stirred and gently heated, and 15.84 g (0.12 mole) of 1,7-heptanediol in 75 ml of tetrahydrofuran was added gradually over a period of 90 minutes. An additional 25 ml of tetrahydrofuran was then added, and the reaction mixture was stirred at reflux for five hours. An additional 150 ml of tetrahydrofuran was added, and to the stirred warm mixture there was added dropwise a solution of 28.9 g (0.25 mole) of sulfamoyl chloride in 150 ml of tetrahydrofuran over a two hour period. The reaction mixture was stirred at reflux for five hours, then cooled and treaated dropwise with 125 ml of water. The mixture was acidified with 2N hydrochloric acid, and the organic layer was separated and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue triturated with ethyl acetate to give a yellow solid which was recrystallized from an ethyl acetate--hexane mixture to give 22.0 g of 1,7-heptanediol disulfamate as colorless granules, m.p. 87°-88° C.

reactant | sodium hydride | 0.28 mole, 11.8 g | [H-].[Na+]
reactant | 1,7-heptanediol | 0.12 mole, 15.84 g | C(CCCCCCO)O | C7H16O2
reactant | sulfamoyl chloride | 0.25 mole, 28.9 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 125 ml | O | H2O
product | 1,7-heptanediol disulfamate | 22.0 g | S(N)(=O)(=O)OCCCCCCCOS(N)(=O)=O | C7H18N2O6S2
